Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
fall, Medflight to ___ s/p fall 30ft from balcony
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ who was intoxicated (EtOH 268) at 
gathering last night s/p fall off a balcony. Reason for fall is 
under current investigation. He was intubated on scene and 
brought to ___ for trauma evaluation/activation. Exam on 
arrival revealed devastating neurologic injury with fixed 
dilated pupils and no corneals. 
 
Past Medical History:
none
 
Social History:
___
Family History:
noncontributory 
 
Physical Exam:
Physical Exam on Admission
Vitals: 91.2  110  144/95  100% FiO2 40% | 12x500 | 5 
General: intubated, nonresponsive, GCS 3T
HEENT: fixed, dilated pupils, multiple forehead abrasions, 
c-collar in place, extravasation of blood from multiple orifices 
including ears, nose, mouth 
CV: sinus tachycardia, S1/S2
Pulm: clear, transmitted mechanical breath sounds
Abd: soft
Ext: warm, no purposeful movements 
Neuro: unable to assess 
 
Pertinent Results:
Admission Labs
___ 07:08AM BLOOD WBC-13.7* RBC-2.82* Hgb-8.9* Hct-26.8* 
MCV-95 MCH-31.6 MCHC-33.2 RDW-13.7 RDWSD-47.6* Plt ___
___ 07:08AM BLOOD ___ PTT-75.0* ___
___ 07:08AM BLOOD Glucose-177* UreaN-15 Creat-0.9 Na-143 
K-4.9 Cl-115* HCO3-16* AnGap-17
___ 07:08AM BLOOD Calcium-6.5* Phos-4.5 Mg-1.8
___ 08:44AM BLOOD Type-ART Temp-35.2 pO2-112* pCO2-56* 
pH-7.13* calTCO2-20* Base XS--11 Intubat-INTUBATED
___ 08:44AM BLOOD Glucose-92 Lactate-4.9* Na-139 K-5.9* 
Cl-116*
___ 05:16AM BLOOD Glucose-123* Lactate-4.4* Na-143 K-3.6 
Cl-115* calHCO3-17.9*
Serum EtOH 268
Serum Benzo, Tricyc - pending

Imaging
CT Head
1. Diffuse cerebral edema with possible transtentorial 
herniation and herniation through the foramen magnum. 
2. Complex comminuted fracture involving the left frontal, 
parietal, and temporal bones, as detailed above, with 
involvement of the carotid canals and pterygoid plates 
bilaterally. 
3. Acute left-sided subdural hemorrhage measuring 9 mm in 
maximal width and left cerebral convexity subarachnoid 
hemorrhage.  3 mm of midline shift. 
4. Bilateral orbital floor fractures and possible form plate 
fractures. 

CT C-spine
Burst fracture of the entire C5 vertebral body, right lamina and 
spinous 
process. Widening of the right C5-6 facet joint suggesting 
injury to the joint capsule. Minimal retropulsion of the 
posterior component of the C5 vertebral body. Fracture of the 
left C7 transverse process. 

CT Torso
1. Scattered areas of lung contusion involving both lungs.  
Ill-defined 
opacities in the dependent portions of the bilateral lower lobes 
which may be compatible with aspiration versus less likely 
laceration. 
2. No fracture. 
3. No hemoperitoneum or evidence of solid organ injury in the 
abdomen or 
pelvis. 

CTA Head
1. There is dissection of the left internal carotid artery at 
its petrous 
portion (2: 272). 
2. There is abrupt cutoff at the supraclinoid portion the 
bilateral ICAs.  
There is no flow noted in the bilateral anterior cerebral 
arteries. There is very diminutive flow noted in the M1 and M2 
portions of the bilateral MCAs.  There is very diminutive flow 
noted in the P1 and P2 portions of the bilateral posterior 
cerebral arteries. These findings are likely secondary to 
diffuse cerebral edema. 
3. Complex fracture involving the left frontal, parietal, 
temporal bones is described more in detail on the CT head study 
from the same date. 
4. Diffuse cerebral edema with transtentorial and tonsillar 
herniation 
Final read pending 3D reconstructions. 

CXR
No acute intrathoracic process.  Patient's lung contusions 
characterized on same day CT torso  are unable to be appreciated 
on this study. 

 
Brief Hospital Course:
Stat Trauma was activate on patient arrival to the trauma bay. 
After primary and secondary exams, there was clear evidence of 
neurogenic shock and an active skull base hemorrhage. Skull base 
hemorrhage was ineffectively temporized with nasal and 
oropharynx packing. CTA head showed evidence of devastating head 
injury with herniation. Neurosurgery was consulted and deemed 
that no surgical intervention would be beneficial in this 
circumstance. Patient was admitted to the trauma ICU for 
continued resuscitation, on pressors. He received a total of 2 
blood transfusions. Patient's family arrived shortly thereafter 
and after discussion patient was made CMO. Attempts to maintain 
perfusion well enough to allow organ donation attempts were not 
successful, likely due to the co-existant spinal cord injury 
with neurigenic shock. The patient was pronounced dead at 13:03 
(___).
 
Medications on Admission:
none
 
Discharge Medications:
deceased
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
fall
 
Discharge Condition:
deceased 
 
Discharge Instructions:
deceased 
 
Followup Instructions:
___